US05856529
Step 1: (±)-(trans)-N-Methoxy-N-methyl-2-(2,3-dihydrobenzofuran-4- yl)cyclopropanecarboxamide
Trimethylsulfoxonium iodide (9.9 g, 45 mmol) was added in small portions to a suspension of sodium hydride (1.8 g, 45 mmol) in DMF (120 mL). After the foaming had subsided (10 min), a solution of (trans)-N-methoxy-N-methyl-3-(2,3-dihydrobenzofuran-4-yl)propenamide (3.5 g, 15 mmol) in DMF (60 mL) was added dropwise, with the temperature maintained between 35°-40° C. The mixture was stirred for 3 h at room temperature. Saturated NH4Cl (50 mL) was added dropwise and the mixture was extracted three times with ethyl acetate. The organic extracts were combined, washed with H2O and brine, dried over K2CO3, and concentrated in vacuo to give a white wax (3.7 g, 100%).

reactant | Trimethylsulfoxonium iodide | 45 mmol, 9.9 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 45 mmol, 1.8 g | [H-].[Na+]
reactant | (trans)-N-methoxy-N-methyl-3-(2,3-dihydrobenzofuran-4-yl)propenamide | 15 mmol, 3.5 g | CON(C(\C=C\C1=CC=CC2=C1CCO2)=O)C | C13H15NO3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (±)-(trans)-N-Methoxy-N-methyl-2-(2,3-dihydrobenzofuran-4- yl)cyclopropanecarboxamide | CON(C(=O)[C@H]1[C@@H](C1)C1=CC=CC2=C1CCO2)C | C14H17NO3
